US05409928
To a solution obtained by dissolving α-formyl-4-(3-methylphenylmethyl)phenylacetonitrile thus obtained in methanol (50 ml) and water (10 ml) was added semicarbazide hydrochloride (3.2 g) under stirring on ice-cooling. Ice bath was removed, and after 13 hours, the mixture was adjusted to alkaline (pH 10 to 11) with 5N-sodium hydroxide aqueous solution, and stirred for 1 hour. Next, the reaction mixture was neutralized (pH 8 to 9) with 10% hydrochloric acid aqueous solution, and the precipitate was separated by filtration. By washing and drying, 3-amino-2-carbamoyl-4-{4-(3-methylphenylmethyl)phenyl}pyrazole (6.3 g) was obtained. The product was used in subsequent procedure without purification.

reactant | α-formyl-4-(3-methylphenylmethyl)phenylacetonitrile | C(=O)C(C#N)C1=CC=C(C=C1)CC1=CC(=CC=C1)C | C17H15NO
reactant | water | 10 ml | O | H2O
reactant | semicarbazide hydrochloride | 3.2 g | Cl.NNC(=O)N
solvent | methanol | 50 ml | CO | CH4O
product | 3-amino-2-carbamoyl-4-{4-(3-methylphenylmethyl)phenyl}pyrazole | 6.3 g | NC=1N(N=CC1C1=CC=C(C=C1)CC1=CC(=CC=C1)C)C(N)=O | C18H18N4O
